US06660753B2
In a similar fashion, 3-(2-pyridyl)-5-(5-bromo-pyrid-3-yl)-1,2,4-oxadiazole (152 mg, 0.5 mmol), phenylboronic acid (121.9 mg, 1.0 mmol) and Pd(PPh3)4 (57.8 mg, 0.05 mmol) in a solution of 2M sodium carbonate (3 mL) and ethylene glycol dimethyl ether (3 ml) was heated overnight at 105° C. Standard work up afforded 45 mg of 3-(2-pyridyl)-5-(5-phenyl-pyrid-3-yl)-1,2,4-oxadiazole.

reactant | 3-(2-pyridyl)-5-(5-bromo-pyrid-3-yl)-1,2,4-oxadiazole | 0.5 mmol, 152 mg | N1=C(C=CC=C1)C1=NOC(=N1)C=1C=NC=C(C1)Br | C12H7BrN4O
reactant | phenylboronic acid | 1.0 mmol, 121.9 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.05 mmol, 57.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethylene glycol dimethyl ether | 3 ml | COCCOC | C4H10O2
product | 3-(2-pyridyl)-5-(5-phenyl-pyrid-3-yl)-1,2,4-oxadiazole | 45 mg | N1=C(C=CC=C1)C1=NOC(=N1)C=1C=NC=C(C1)C1=CC=CC=C1 | C18H12N4O
